Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Right ICA Aneurysm.
 
Major Surgical or Invasive Procedure:
___ - Pipeline embolization of Cerebral Aneurysm.

 
History of Present Illness:
Ms. ___ is a ___ y/o female. She works in the ___ 
___
and she was leaving for ___.  As she was leaving ___, she had
an MRI done because of more frequent headaches.  This detected 
an
8 mm aneurysm of the right supraclinoid carotid artery. The 
risks and benefits of intervention were discussed and the 
patient consented to the procedure. 

 
Past Medical History:
Past medical history is significant for hypertension, C-section,
hysterectomy.
 
Social History:
___
Family History:
NC.
 
Physical Exam:
PHYSICAL EXAMINATION ON ADMISSION:
On examination, she was awake, alert, oriented x 3.  Her memory
recent and remote is good.  Attention and concentration is
appropriate.  Language and fund of knowledge was good.  Her
cranial nerves II through XII were intact.  Her motor strength 
is
___ in all four extremities.  Sensation to light touch was
intact.  Reflexes were symmetric.  Gait and coordination was
normal.

PHYSICAL EXAMINATION ON DISCHARGE:
___ x 3.  PERRLA.  CN II-XII intact.
Speech clear, tongue midline.
___ BUE and BLE. No drift.
Groin site clean, dry, intact

 
Pertinent Results:
___
Carotid/Cerebral angio
1. Large para ophthalmic aneurysm approximately 9.5 x 12 x 4.5 
mm.  Pipeline 
flow diverted device completely covers the neck of the aneurysm 
post 
deployment. . 
  
RECOMMENDATION(S): 
1. Follow-up cerebral angiogram in 6 months 

 
Brief Hospital Course:
The patient was taken to the Neuro Interventional Radiology 
suite on ___ and underwent a pipeline embolization of the 
right ICA aneurysm. She tolerated the procedure well and was 
transferred to the PACU for close monitoring post-procedure.

On ___, the patient remained stable.  She complained of 
slight HA that was improved with medication.  Her A-line and 
foley were removed.  She tolerated ambulation and diet and was 
discharged home. 

On ___, the patient remained neurologically and hemodynamically 
intact. The patient expressed readiness to be discharged home. 
All discharge instructions and follow up were given prior to 
discharge. She was instructed to continue her Brilinta and ASA 
until instructed otherwise by her neurosurgeon. 
 
Medications on Admission:
Brilinta 90 mg BID, ASA 81 mg QD, ramipril 10 mg qd, 
escitalopram oxalate 10 mg qd, atorvastatin 40 mg HS
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
Do not exceed more than 4 grams in 24hrs.  
2. Aspirin 81 mg PO DAILY 
Continue until instructed otherwise by your neurosurgeon.  
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
Daily Disp #*30 Tablet Refills:*0
3. Atorvastatin 40 mg PO QPM 
4. Bisacodyl 10 mg PO/PR DAILY:PRN constipation 
5. Docusate Sodium 100 mg PO BID 
6. Escitalopram Oxalate 10 mg PO DAILY 
7. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
Please do not drive or operate mechanical machinery while taking 
narcotics.  
RX *oxycodone 5 mg ___ tablet(s) by mouth Q 4hrs Disp #*30 
Tablet Refills:*0
8. Ramipril 10 mg PO DAILY 
9. TiCAGRELOR 90 mg PO BID 
Continue to take this medication until instructed otherwise by 
your neurosurgeon.  
RX *ticagrelor [BRILINTA] 90 mg 1 tablet(s) by mouth twice a day 
Disp #*60 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Right ICA Aneurysm.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Discharge Instructions
Dr. ___ and ___ 

Activity
•You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
•Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
•You may take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.
•Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
•You may take a shower.

Medications
•Resume your normal medications and begin new medications as 
directed.
•It is very important to take the medication your doctor ___ 
prescribe for you to keep your blood thin and slippery. This 
will prevent clots from developing and sticking to the ___ 
(ASA 81mg and Brilinta). 
•You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
Care of the Puncture Site
•You will have a small bandage over the site.
•Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
•Keep the site clean with soap and water and dry it carefully.
•You may use a band-aid if you wish.

What You ___ Experience:
•Mild tenderness and bruising at the puncture site (groin).
•Soreness in your arms from the intravenous lines.
•The medication may make you bleed or bruise easily.
•Fatigue is very normal.

When to Call Your Doctor at ___ for:
•Severe pain, swelling, redness or drainage from the puncture 
site. 
•Fever greater than 101.5 degrees Fahrenheit
•Constipation
•Blood in your stool or urine
•Nausea and/or vomiting

Call ___ and go to the nearest Emergency Room if you experience 
any of the following:
•Sudden numbness or weakness in the face, arm, or leg
•Sudden confusion or trouble speaking or understanding
•Sudden trouble walking, dizziness, or loss of balance or 
coordination
•Sudden severe headaches with no known reason

 
Followup Instructions:
___